US04378314
1H-Tetrazole-1-acetic acid
The title compound was prepared by a literature procedure* as follows: A mixture of sodium azide (10.5 g, 0.3 mol) and glacial acetic acid (125 ml) was blanketed with nitrogen and heated at 55° C. with stirring. After most of the solids had dissolved (15 min), glycine (18.75 g, 0.25 mol) and triethyl orthoformate (40 g, 0.27 mol) were added to the reaction mixture and heating at 55°-50° C. with stirring under nitrogen continued for 6 h. The reaction mixture was cooled to room temperature, acidified with concentrated hydrochloric acid (25 ml) and evaporated to dryers. The residue was extracted with ethyl acetate (4×100 ml) and the extracts evaporated to give 9.0 g (28%) of the title compound mp 121°-125° C. (lit. mp 125°-127° C.). 1Hmr (DMSO-d6) δ: 5.35 (s, 2H,--CH2 --) and 9.25 ppm (s, 1H, C5 --H).

reactant | sodium azide | 0.3 mol, 10.5 g | [N-]=[N+]=[N-].[Na+]
reactant | glycine | 0.25 mol, 18.75 g | NCC(=O)O | C2H5NO2
reactant | triethyl orthoformate | 0.27 mol, 40 g | C(OCC)(OCC)OCC | C7H16O3
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
product | 1H-Tetrazole-1-acetic acid | 9.0 g, 28% | N1(N=NN=C1)CC(=O)O | C3H4N4O2
